US05840911
1-[5-(Amidino)-tetralin-1-ylideneamino]-2-amino-4,5-dihydro-imidazole dihydrochloride
0.2 ml of 32% hydrochloric acid (Merck, Darmstadt, Germany; p.a.) is added, with stirring, to a solution of 0.25 g (0.001 mol) of 5-(amidino)-1-tetralone hydrochloride and 0.136 g (0.001 mol) of 1,2-diamino-4,5-dihydro-imidazole hydrochloride in 5 ml of iso-propanol, and the mixture is stirred at 80°-90° C. for 16 hours. The reaction mixture is filtered while hot and the filtration product is washed with isopropanol and dried, yielding the title compound, m.p. >220° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.15 (d, 1H); 7.67 (d, 1H); 7.55 (t, 1H); 4.17 (t, 2H); 3.68 (t, 2H); 3.23 (m, 2H); 3.15 (m, 2H); 1.9 (m, 2H).

reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | 5-(amidino)-1-tetralone hydrochloride | 0.001 mol, 0.25 g | Cl.C(N)(=N)C1=C2CCCC(C2=CC=C1)=O
reactant | 1,2-diamino-4,5-dihydro-imidazole hydrochloride | 0.001 mol, 0.136 g | Cl.NN1C(=NCC1)N
solvent | iso-propanol | 5 ml | C(C)(C)O | C3H8O
product | 1-[5-(Amidino)-tetralin-1-ylideneamino]-2-amino-4,5-dihydro-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCCC(C2=CC=C1)=NN1C(=NCC1)N | InChI=1S/C14H18N6.2ClH/c15-13(16)11-5-1-4-10-9(11)3-2-6-12(10)19-20-8-7-18-14(20)17;;/h1,4-5H,2-3,6-8H2,(H3,15,16)(H2,17,18);2*1H
